US04003699
3. 2,4,5-Triamino-6-morpholino-pyrimidine Sulfate
2.5 gm of 2,4-diamino-6-morpholino-5-nitroso-pyrimidine was suspended in 15 ml of water, and 2 N HCl (5 ml) was added until the substance just dissolved. The mixture was heated to 50° C; and sodium dithionite (Na2S2O4) was added until the violet color solution took on a yellow color. Then, the solution was filtered, cooled, and adjusted to a pH 2 by means of sulfuric acid (1 : 1). After a short time, the pyrimidine derivative precipitated as pyrimidine sulfate; the yield was 2.6 gm which was 76.4% of theory.

reactant | 2,4-diamino-6-morpholino-5-nitroso-pyrimidine | 2.5 gm | NC1=NC(=C(C(=N1)N)N=O)N1CCOCC1 | C8H12N6O2
reactant | HCl | 2 N, 5 ml | Cl | ClH
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 15 ml | O | H2O
product | 2,4,5-Triamino-6-morpholino-pyrimidine Sulfate | S(=O)(=O)(O)O.NC1=NC(=C(C(=N1)N)N)N1CCOCC1 | InChI=1S/C8H14N6O.H2O4S/c9-5-6(10)12-8(11)13-7(5)14-1-3-15-4-2-14;1-5(2,3)4/h1-4,9H2,(H4,10,11,12,13);(H2,1,2,3,4)
